US05296487
A mixture of 2-amino-4-(4-methylpiperazin-1-ylmethyl)-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin 1-yl)butyl]benzamide (0.25 g), carbonyldiimidazole (0.45 g) and dry tetrahydrofuran (10 ml) was stirred under reflux for 14 hours. After evaporation of the solvent, the crude residue was taken up with ethyl acetate, washed with water, dried over magnesium sulfate and evaporated to give crystals. Recrystallization from ethanol afforded 7-(4-methylpiperazin-1-ylmethyl)-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin 1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione (0.16 g).

reactant | 2-amino-4-(4-methylpiperazin-1-ylmethyl)-N-[4-(4-phenyl-1,2,3,6-tetrahydropyridin 1-yl)butyl]benzamide | 0.25 g | NC1=C(C(=O)NCCCCN2CCC(=CC2)C2=CC=CC=C2)C=CC(=C1)CN1CCN(CC1)C | C28H39N5O
reactant | carbonyldiimidazole | 0.45 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 7-(4-methylpiperazin-1-ylmethyl)-3-[4-(4-phenyl-1,2,3,6-tetrahydropyridin 1-yl)butyl]-1,2,3,4-tetrahydroquinazoline-2,4-dione | 0.16 g | CN1CCN(CC1)CC1=CC=C2C(N(C(NC2=C1)=O)CCCCN1CCC(=CC1)C1=CC=CC=C1)=O | C29H37N5O2
